US06225306B1
1-Tosyl-L-Proline
To a solution of 7 g of L-proline in 120 ml of a 2N aqueous sodium hydroxide solution, there was added 11.8 g of p-toluenesulfonyl chloride and the mixture was heated to 70° C. for one hour with stirring. After the reaction solution was ice-cooled, it was acidified with hydrochloric acid and then extracted with ethyl acetate. The resulting organic phase was washed with water, dried over anhydrous magnesium sulfate and then concentrated to give 16.1 g (yield 98.3%) of the title compound.

reactant | L-proline | 7 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | 11.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
product | 1-Tosyl-L-Proline | 16.1 g, yield 98.3% | S(=O)(=O)(C1=CC=C(C)C=C1)N1[C@H](C(=O)O)CCC1 | C12H15NO4S
